### PR TITLE
[Merged by Bors] - refactor(NumberTheory): golf `Mathlib/NumberTheory/Dioph`

### PR DESCRIPTION
**Pull request by yuanyi-350**
- golfs `Mathlib/NumberTheory/Dioph` by replacing the arithmetic proof in `sub_dioph` with `grind`
- simplifies `div_dioph` by splitting on `y = 0 ∨ 0 < y`, then closing the positive case with `Nat.div_eq_iff` and `grind`

Extracted from #38144

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by yuanyi-350** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/14367bd66cbb85b4279031b0291f3cf335de151c?reference=7705510fbcd810760df88b9ebb8090f635c1b76a) for 14367bd66cbb85b4279031b0291f3cf335de151c against 7705510fbcd810760df88b9ebb8090f635c1b76a are in. No significant results found. @yuanyi-350

- 🟥 `build//instructions`: **+6.6G** (**+0.00%**)

No significant changes detected.

**Comment by grunweg** [comment]
Feel free to remove the label once you have commented on the performance!

**Comment by yuanyi-350** [comment]
I ran a profiler comparison for the changed declarations in this PR.

Results (seconds):
- `Dioph.sub_dioph`: `0.048198 -> 0.056772` (`+17.79%`)
- `Dioph.div_dioph`: `0.053122 -> 0.094187` (`+77.30%`)

Overall:
- both changed declarations got slower in this measurement, with a small regression in `Dioph.sub_dioph` and a larger regression in `Dioph.div_dioph`

File: Mathlib/NumberTheory/Dioph.lean [hunk 1]
```diff
@@ -623,16 +619,10 @@ theorem div_dioph : DiophFn fun v => f v / g v :=
...
-              (fun y0 => by
-                rw [y0, Nat.div_zero]
-                exact ⟨fun o => (o.resolve_right fun ⟨_, h2⟩ => Nat.not_lt_zero _ h2).right,
-                  fun z0 => Or.inl ⟨rfl, z0⟩⟩)
-              fun ypos =>
-                Iff.trans ⟨fun o => o.resolve_left fun ⟨h1, _⟩ => Nat.ne_of_gt ypos h1, Or.inr⟩
-                  (le_antisymm_iff.trans <| and_congr (Nat.le_div_iff_mul_le ypos) <|
-                    Iff.trans ⟨lt_succ_of_le, le_of_lt_succ⟩ (div_lt_iff_lt_mul ypos)).symm
+            rcases y.eq_zero_or_pos with rfl | hy
+            · simp [eq_comm]
```
Comment (grunweg) [inline Mathlib/NumberTheory/Dioph.lean:622]: Why do you need `eq_comm` here?

File: Mathlib/NumberTheory/Dioph.lean [hunk 2]
```diff
@@ -567,12 +567,8 @@ theorem sub_dioph : DiophFn fun v => f v - g v :=
...
       ext (D&1 D= D&0 D+ D&2 D∨ D&1 D≤ D&2 D∧ D&0 D= D.0) <|
         (vectorAll_iff_forall _).1 fun x y z =>
-          show y = x + z ∨ y ≤ z ∧ x = 0 ↔ y - z = x from
-            ⟨fun o => by
-              rcases o with (ae | ⟨yz, x0⟩)
-              · rw [ae, add_tsub_cancel_right]
-              · rw [x0, tsub_eq_zero_iff_le.mpr yz], by
-              lia⟩
+          show y = x + z ∨ y ≤ z ∧ x = 0 ↔ y - z = x by
+            grind
```
Comment (grunweg) [inline Mathlib/NumberTheory/Dioph.lean]:
```suggestion
          show y = x + z ∨ y ≤ z ∧ x = 0 ↔ y - z = x by grind
```

Comment (grunweg) [reply Mathlib/NumberTheory/Dioph.lean]: Actually, can just `grind` do it? (How fast or slow is it?)

**Review by grunweg — COMMENTED** [review]
I think the proofs are an improvement --- and would justify the minor performance loss.

File: Mathlib/NumberTheory/Dioph.lean (hunk 2 above)
Comment (yuanyi-350) [reply Mathlib/NumberTheory/Dioph.lean]: If `show ...` is removed, the compilation fails.

File: Mathlib/NumberTheory/Dioph.lean (hunk 1 above)
Comment (yuanyi-350) [reply Mathlib/NumberTheory/Dioph.lean:622]: simp can simplify this expression to `z = 0 ↔ 0 = z`, and then eq_comm is needed.

**Comment by grunweg** [comment]
Thanks!
maintainer merge

**Review by ocfnash — APPROVED** [review]
bors merge
